US07572801B2
In analogy to the procedure described in example 97.2, 2,4-dichloro-7-methyl-pyrido[2,3-d]pyrimidine (R. K. Robins, G. H. Hitchings, J. Am. Chem. Soc. 1958, 80, 3449-57) was treated with 1N NaOH solution to give 2-chloro-7-methyl-3H-pyrido[2,3-d]pyrimidin-4-one hydrochloride as orange solid. MS: m/e=196.1 [M+H+].

reactant | 2,4-dichloro-7-methyl-pyrido[2,3-d]pyrimidine | ClC=1N=C(C2=C(N1)N=C(C=C2)C)Cl | C8H5Cl2N3
reactant | NaOH | 1N | [OH-].[Na+]
product | 2-chloro-7-methyl-3H-pyrido[2,3-d]pyrimidin-4-one hydrochloride | Cl.ClC=1NC(C2=C(N1)N=C(C=C2)C)=O | InChI=1S/C8H6ClN3O.ClH/c1-4-2-3-5-6(10-4)11-8(9)12-7(5)13;/h2-3H,1H3,(H,10,11,12,13);1H
